US09255100B2
N-cyclopropyl-4-{8-[(2-methylpropyl)amino]-6-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl}benzamide
To a solution of 410 mg (1037 μmol) of N-cyclopropyl-4-{8-[(2-methylpropyl)amino]-6-(methylsulfanyl)imidazo[1,2-b]pyridazin-3-yl}benzamide, which was prepared according to example 193, in 15 mL of DMF was added and 1912 mg (3110 μmol) OXONE (potassium peroxymonosulfate) in small portions. The mixture was stirred over night, then cooled to 0° C. and poured onto 200 mL of cold water. The precipitate was collected and dried under vacuum to yield 291 mg of the title compound as a yellow solid.

reactant | N-cyclopropyl-4-{8-[(2-methylpropyl)amino]-6-(methylsulfanyl)imidazo[1,2-b]pyridazin-3-yl}benzamide | 1037 μmol, 410 mg | C1(CC1)NC(C1=CC=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)SC)=O | C21H25N5OS
reactant | OXONE | 3110 μmol, 1912 mg | OOS(=O)[O-].[K+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-4-{8-[(2-methylpropyl)amino]-6-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl}benzamide | 291 mg | C1(CC1)NC(C1=CC=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)S(=O)(=O)C)=O | C21H25N5O3S
